US07713982B2
8-chloro-1-methyl-3-(4,4,4-trifluorobutyl)-3,7-dihydro-1H-purine-2,6-dione
A solution of 8-chloro-1-methyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione (0.048 g, 0.2 mmol) in THF (1 ml) was treated with caesium carbonate (0.78 g, 0.24 mmol) and 4-bromo-1,1,1-trifluorobutane (0.044 g, 0.25 mmol). The mixture was stirred at ambient temperature for 1 hour then heated at 50° C. for 4 hours and then cooled. The mixture was degassed by alternately applying vacuum and nitrogen pressure to the mixture and then treated with morpholine (0.17 ml, 2 mmol) and tetrakis(triphenylphosphine)palladium(0) (0.023 g, 0.02 mmol). After 2 hours the mixture was treated cautiously with 2M aqueous hydrochloric acid (2 ml) and the product extracted with chloroform (2×4 ml). The combined organics were evaporated and the product purified by reverse-phase mass directed HPLC to afford the title compound 6.2 mg (10%); NMR; δH (400 MHz, d6-DMSO); 1.84-1.92 (m, 2H), 2.28-2.35 (m, 2H), 3.22 (s, 3H), 3.99-4.03 (m, 2H) 14.31 (br.s, 1H); m/z 311.2[MH+].

reactant | 8-chloro-1-methyl-7-(2-propen-1-yl)-3,7-dihydro-1H-purine-2,6-dione | 0.2 mmol, 0.048 g | ClC1=NC=2NC(N(C(C2N1CC=C)=O)C)=O | C9H9ClN4O2
reactant | caesium carbonate | 0.24 mmol, 0.78 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 4-bromo-1,1,1-trifluorobutane | 0.25 mmol, 0.044 g | BrCCCC(F)(F)F | C4H6BrF3
reactant | morpholine | 2 mmol, 0.17 ml | N1CCOCC1 | C4H9NO
reactant | hydrochloric acid | 2M, 2 ml | Cl | ClH
solvent | THF | 1 ml | C1CCOC1 | C4H8O
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.02 mmol, 0.023 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 8-chloro-1-methyl-3-(4,4,4-trifluorobutyl)-3,7-dihydro-1H-purine-2,6-dione | 6.2 mg, 10% | ClC1=NC=2N(C(N(C(C2N1)=O)C)=O)CCCC(F)(F)F | C10H10ClF3N4O2
